US08309546B2
5-[9-(Cyclopropylmethyl)-8-(cis-3,5-dimethylpiperazin-1-yl)-6-morpholin-4-yl-9H-purin-2-yl]-4-methylpyrimidin-2-amine
cis-2,6-Dimethylpiperazine (114 mg, 1.0 mmol) and N-methylpyrrolidone (1 ml) were added to 5-[8-chloro-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-2-yl]-4-methylpyrimidin-2-amine (100 mg, 0.25 mmol) and the resulting mixture was stirred at 150° C. for 4 hours. The reaction mixture was partitioned with ethyl acetate and water and the organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated under reduced pressure and then the residue was purified by preparative HPLC (column, NOMURA Develosil Combi-RP-5; mobile phase, acetonitrile/water/formic acid) to give the title compound (90 mg, 75%) as a light brown solid.

reactant | cis-2,6-Dimethylpiperazine | 1.0 mmol, 114 mg | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
reactant | 5-[8-chloro-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-2-yl]-4-methylpyrimidin-2-amine | 0.25 mmol, 100 mg | ClC=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C(=NC(=NC1)N)C)CC1CC1 | C18H21ClN8O
solvent | N-methylpyrrolidone | 1 ml | CN1C(CCC1)=O | C5H9NO
product | 5-[9-(Cyclopropylmethyl)-8-(cis-3,5-dimethylpiperazin-1-yl)-6-morpholin-4-yl-9H-purin-2-yl]-4-methylpyrimidin-2-amine | 90 mg, 75% | C1(CC1)CN1C2=NC(=NC(=C2N=C1N1C[C@H](N[C@H](C1)C)C)N1CCOCC1)C=1C(=NC(=NC1)N)C | C24H34N10O
